US04677228
Acetanilide (13.94 g), propionyl chloride (14.31 g) and 1,2,4-trichlorobenzene (100 ml) were warmed to 60° C. and aluminium trichloride (40.0 g) was added over 15 minutes. The mixture was heated at 100° C. for 90 minutes, cooled at 40° C. and ethanol (200 ml) was added dropwise keeping the temperature below 60° C. by means of an ice-water bath. After stirring for 30 minutes at 40° C. a homogeneous system was obtained. This was quenched with water (100 ml) at 25°-30° C. and stirred for 15 minutes. Dichloromethane (300 ml) and water (200 ml) were added and the organic layer was separated and washed with water (2×200 ml). The organic layer was evaporated to about half-volume (about 150 ml), and petroleum ether (60° C.-80° C.) (150 ml) was added at 50° C. A solid precipitated and was collected after 60 minutes of stirring to afford p-acetamidopropiophenone (15.12 g; 79%), m.p. 169°-70° C.

reactant | Acetanilide | 13.94 g | C(C)(=O)NC1=CC=CC=C1 | C8H9NO
reactant | propionyl chloride | 14.31 g | C(CC)(=O)Cl | C3H5ClO
reactant | 1,2,4-trichlorobenzene | 100 ml | ClC1=C(C=C(C=C1)Cl)Cl | C6H3Cl3
reactant | aluminium trichloride | 40.0 g | [Cl-].[Cl-].[Cl-].[Al+3]
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | p-acetamidopropiophenone | 15.12 g, 79% | C(C)(=O)NC1=CC=C(C=C1)C(CC)=O | C11H13NO2
